US07476399B2
(R)-methyl 2-(benzo[d][1,3]dioxole-6-carboxamido)-4-methylpentanoate
Prepared in a similar manner to example 1 using benzo[d][1,3]dioxole-5-carbonyl chloride and D-leucine methyl ester hydrochloride. Yield: 83%. 1H NMR (500 MHz, CDCl3): δ 0.98 (m, 6H); 1.63-1.67 (m, 1H); 1.71-1.76 (m, 2H); 3.76 (s, 3H); 4.83 (m, 1H); 6.03 (s, 2H); 6.38 (d, 1H); 6.83 (d, 1H); 7.32 (s, 1H); 7.33 (d, 1H). MS (M+H, 294). m.p: 89-90° C.

reactant | benzo[d][1,3]dioxole-5-carbonyl chloride | O1COC2=C1C=CC(=C2)C(=O)Cl | C8H5ClO3
reactant | D-leucine methyl ester hydrochloride | Cl.COC([C@H](N)CC(C)C)=O
product | (R)-methyl 2-(benzo[d][1,3]dioxole-6-carboxamido)-4-methylpentanoate | Yield: 83% | O1COC2=C1C=C(C=C2)C(=O)N[C@@H](C(=O)OC)CC(C)C | C15H19NO5
